US07514583B2
Succinic acid bis(3,4-dihydroxybenzylamide) (Compound 67; DC-0067)
Succinic acid bis(3,4-dibenzyloxybenzylamide) (300 mg, 0.42 mmol) was dissolved in THF (50 ml) in a pressure bottle and warmed to 35 C to ensure dissolution of the solid. Palladium on carbon (50 mg 10% Pd/C) was added, and the vessel was pressurized with hydrogen (to 3 atm). The reaction was agitated for 1 hour at room temperature, whereupon TLC revealed reaction had gone to completion. The catalyst was removed by filtration, and the solvent removed under reduced pressure to afford DC-0067 as a crude solid (20 mg). This material was recrystallized from toluene and methanol to afford DC-0067.

reactant | Succinic acid bis(3,4-dibenzyloxybenzylamide) | 0.42 mmol, 300 mg | C(C1=CC=CC=C1)OC=1C=C(CNC(CCC(=O)NCC2=CC(=C(C=C2)OCC2=CC=CC=C2)OCC2=CC=CC=C2)=O)C=CC1OCC1=CC=CC=C1 | C46H44N2O6
reactant | hydrogen | [H][H] | H2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
catalyst | Palladium on carbon | 50 mg | [Pd] | Pd
product | Succinic acid bis(3,4-dihydroxybenzylamide) | 20 mg | OC=1C=C(CNC(CCC(=O)NCC2=CC(=C(C=C2)O)O)=O)C=CC1O | C18H20N2O6
